US08497271B2
Part B. [(R)-2-Hydroxy-1-(4-hydroxy-phenyl)-ethyl]-carbamic acid t-butyl ester
(R)-tert-Butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid methyl ester (10 mmol), Lithium Boron hydride (1.089 g, 50 mmol) and THF (50 ml) were combined and stirred at room temperature overnight. Ice (20 ml) was added into the reaction mixture with stirring. Saturated citric acid was then added dropwise until no more bubbles were generated. The reaction mixture was transferred to a separatory funnel. The aqueous layer was extracted with ethyl acetate (3×30 ml). The combined organic layers were washed with saturated NH4Cl and water sequentially, then dried over MgSO4, filtered and concentrated to give a white crude solid (2.92 g, crude product) with some impurity: 1H NMR (400 MHz, MeOD) δ ppm 7.14 (d, J=8.6 Hz, 2H), 6.76 (d, J=8.6 Hz, 2H), 4.56 (m, 1H), 3.63 (m, 2H), 1.43 (s, 9H); LCMS (ESI) m/e 254.1 [(M+H)+, calcd for C13H20NO4 254.3].

reactant | (R)-tert-Butoxycarbonylamino-(4-hydroxy-phenyl)-acetic acid methyl ester | 10 mmol | COC([C@@H](C1=CC=C(C=C1)O)NC(=O)OC(C)(C)C)=O | C14H19NO5
reactant | Lithium Boron hydride | 50 mmol, 1.089 g | B.[Li]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | [(R)-2-Hydroxy-1-(4-hydroxy-phenyl)-ethyl]-carbamic acid t-butyl ester | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=C(C=C1)O)=O | C13H19NO4
